US07632838B2
The compound of Example 29U, 4-((3R)-3-methyl-4-{[3-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl]sulfonyl}piperazin-1-yl)-3-(trifluoromethyl)benzonitrile, was used as starting material to make the title compound. A mixture of 4-((3R)-3-methyl-4-{[3-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl]sulfonyl}piperazin-1-yl)-3-(trifluoromethyl)benzonitrile (300 mg, 0.58 mmol), NaN3 (112.5 mg, 1.73 mmol), Et3NHCl (238.1 mg, 1.73 mmol) were charged to a microwave vial. Toluene (3 mL) was introduced under nitrogen atmosphere and the reaction mixture was heated at 100° C. over night in an oil bath. Reaction was complete as determined by TLC. Reaction mixtures was diluted with EtoAc, washed with 10% HCl until pH=6-7. The organic layer was dried over Na2SO4 and concentrated. The crude product was purified via prep HPLC under acidic condition to yield 1,1,1-trifluoro-2-[3-({(2R)-2-methyl-4-[4-(1H-tetrazol-5-yl)-2-(trifluoromethyl)phenyl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol as a white solid (111.2 mg, 34.3 yield %). HRMS: calcd for C22H22F6N6O3S+H+, 565.14510. found (ESI-FTMS, [M+H]1+), 565.14524.

reactant | 4-((3R)-3-methyl-4-{[3-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl]sulfonyl}piperazin-1-yl)-3-(trifluoromethyl)benzonitrile | 0.58 mmol, 300 mg | C[C@@H]1CN(CCN1S(=O)(=O)C1=CC(=CC=C1)C(C(F)(F)F)(C)O)C1=C(C=C(C#N)C=C1)C(F)(F)F | C22H21F6N3O3S
reactant | NaN3 | 1.73 mmol, 112.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | Toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1-trifluoro-2-[3-({(2R)-2-methyl-4-[4-(1H-tetrazol-5-yl)-2-(trifluoromethyl)phenyl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol | FC(C(C)(O)C1=CC(=CC=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)C1=NN=NN1)C(F)(F)F)C)(F)F | C22H22F6N6O3S
